US09062092B2
Compound 98d. 2,2-Bis-hydroxymethyl-but-3-enoic acid tert-butyl ester
A solution of 2,2-dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester (969 mg, 4 mmol) and 4-toluenesulfonic acid hydrate (76 mg, 0.4 mmol) in methanol (10 mL) was stirred at room temperature for 30 min. The solvent was evaporated and the residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 4:1 to 1:1 to afford the title compound (660 mg, 82%) as a white solid. 1H NMR (300 MHz, d6-DMSO): δ 1.38 (s, 9H), 3.54-3.68 (m, 4H), 4.56 (t, J=5.4 Hz, 2H), 5.12 (d, J=10.5 Hz, 1H), 5.14 (d, J=18.3 Hz, 1H), 5.80 (dd, J=18.3, 10.5 Hz, 1H). LCMS (m/z) 225.2 [M+Na], Tr=1.47 min.

reactant | 2,2-dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester | 4 mmol, 969 mg | C(C)(C)(C)OC(=O)C1(COC(OC1)(C)C)C=C | C13H22O4
reactant | 4-toluenesulfonic acid hydrate | 0.4 mmol, 76 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 10 mL | CO | CH4O
product | 2,2-Bis-hydroxymethyl-but-3-enoic acid tert-butyl ester | 660 mg, 82% | C(C)(C)(C)OC(C(C=C)(CO)CO)=O | C10H18O4
